US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 3-(trifluoromethylthio)aniline were reacted to provide 2-chloro-5-fluoro-N4-[3-(trifluoromethylthio)phenyl]-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.13 (bs, 1H), 7.92 (bs, 1H), 7.89–7.84 (m, 1H), 7.48–7.45 (m, 2H), 7.04 (bs, 1H); LCMS: purity: 97%; MS (m/e): 325(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-(trifluoromethylthio)aniline | FC(SC=1C=C(N)C=CC1)(F)F | C7H6F3NS
product | 2-chloro-5-fluoro-N4-[3-(trifluoromethylthio)phenyl]-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)SC(F)(F)F)F | C11H6ClF4N3S
